US06710078B2
Following the procedure of Method C, Example 1, (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone was reacted with L-cysteine to provide (2R)-2-amino-3-{[2-(5-methyl-4-oxo-5-phenyl-4,5-dihydrofuran-2yl)-1-thien-3-ylethyl]thio}propanoic acid: 1H NMR (DMSO-d6) δ1.50-1.60 (overlapping singlets, 3H), 2.70-3.10 (m, ˜2H), 4.00-4.25 (m, 1H), 4.64 (m, 1H), 5.50-5.57 (overlapping singlets, 1H), 7.12-7.38 (m, 6H), 7.52-7.63 (m, 2H), 8.35 (br s, ˜2H); MS (LR-ESI) m/z 402 (M-H calcd. for C20H20NO4S2 402)

reactant | (E)-2-methyl-2-phenyl-5-[2-(3-thienyl)ethenyl]-3(2H)-furanone | CC1(OC(=CC1=O)\C=C\C1=CSC=C1)C1=CC=CC=C1 | C17H14O2S
reactant | L-cysteine | N[C@@H](CS)C(=O)O | C3H7NO2S
product | (2R)-2-amino-3-{[2-(5-methyl-4-oxo-5-phenyl-4,5-dihydrofuran-2yl)-1-thien-3-ylethyl]thio}propanoic acid | N[C@H](C(=O)O)CSC(CC=1OC(C(C1)=O)(C1=CC=CC=C1)C)C1=CSC=C1 | C20H21NO4S2
